US05616620
b) (R)-N5 -[Amino (nitroimino) methyl]-N-[(4-chlorophenyl)-methyl]-ornithinamide
Prepared analogously to Example 23b) from (R)-N5 -[amino(nitroimino)methyl]-N2 -(tert.-butoxycarbonyl)-N-[(4-chlorophenyl)-methyl]-ornithinamide by treating with trifluoroacetic acid in dichloromethane.

reactant | (R)-N5 -[amino(nitroimino)methyl]-N2 -(tert.-butoxycarbonyl)-N-[(4-chlorophenyl)-methyl]-ornithinamide | NC(NCCC[C@@H](NC(=O)OC(C)(C)C)C(=O)NCC1=CC=C(C=C1)Cl)=N[N+](=O)[O-] | C18H27ClN6O5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-N5 -[Amino (nitroimino) methyl]-N-[(4-chlorophenyl)-methyl]-ornithinamide | NC(NCCC[C@@H](N)C(=O)NCC1=CC=C(C=C1)Cl)=N[N+](=O)[O-] | C13H19ClN6O3
